********************
*SRC=MMBR521;MMBR521;BJTs PNP;RF;Ic=-70mA
*SYM=RFNBJT
* Version 1.1.0a
.SUBCKT MMBR521 100 200 300 
LCL 100 199 2.8E-10 
LBL 200 201 3.2E-10 
LBB 201 299 8.4E-10 
LEL 300 301 3.2E-10 
LEB 301 399 8.4E-10 
CCB 201 199 6E-14 
CCE 199 301 2.4E-13 
CBE 201 301 1.2E-13 
CCG 199 0 1E-13 
CBG 201 0 1E-13 
CEG 301 0 1E-13 
X1 199 299 399 XMMBR521
.ENDS
*INCLUDE MOTRF.LIB
*************
.SUBCKT XMMBR521 100 200 300 
CEPAD 300 100 2.4E-13 
CBPAD 200 100 2.4E-13 
Q1 100 200 300 DMMBR521 
.ENDS
*************
.MODEL DMMBR521 PNP 
+ IS = 1.755E-15 BF = 107 NF = 1.004 VAF = 15 IKF = 0.13 ISE = 2.178E-13 
+ NE = 1.51 BR = 47 NR = 0.9993 VAR = 3 IKR = 0.0038 ISC = 4.18E-15 
+ NC = 1.283 RB = 1 IRB = 1.2E-05 RBM = 0.3 RE = 1 RC = 8 XTB = 0 
+ EG = 1.11 XTI = 3 CJE = 2.9E-12 VJE = 0.83 MJE = 0.38 CJC = 1.7E-12 
+ VJC = 0.712 MJC = 0.425 XCJC = 0.5 TF = 4.8E-11 XTF = 9.936 VTF = 0.8 
+ ITF = 0.2 PTF = 10 TR = 8.2E-09 FC = 0.9 
********************
*SRC=MMBR571M;MMBR571M;BJTs NPN;RF;Ic=80mA
*SYM=RFNBJT
* Version 1.1.0a
.SUBCKT MMBR571M 100 200 300 
LCL 100 199 2.8E-10 
LBL 200 201 3.2E-10 
LBB 201 299 8.4E-10 
LEL 300 301 3.2E-10 
LEB 301 399 8.4E-10 
CCB 201 199 6E-14 
CCE 199 301 2.4E-13 
CBE 201 301 1.2E-13 
X1 199 299 399 XMBR571M 
.ENDS
*INCLUDE MOTRF.LIB
**************
.SUBCKT XMBR571M 1 2 3 
CBPAD 2 1 7E-14 
CEPAD 1 3 7E-14 
Q1 1 2 3 DMBR571M 
.ENDS
****************
.MODEL DMBR571M NPN 
+ IS = 2.8E-15 BF = 185 NF = 1.005 VAF = 22 IKF = 10 ISE = 2.093E-14 
+ NE = 1.641 BR = 14 NR = 1.005 VAR = 2.2 IKR = 0.25 ISC = 1.196E-15 
+ NC = 1.1 RB = 5 IRB = 8E-05 RBM = 5 RE = 0.3 RC = 1 XTB = 0 EG = 1.11 
+ XTI = 3 CJE = 3E-12 VJE = 0.92 MJE = 0.44 CJC = 1.8E-12 VJC = 0.641 
+ MJC = 0.406 XCJC = 0.15 TF = 1.25E-11 XTF = 500 VTF = 1 ITF = 2 
+ PTF = 55 TR = 1E-09 FC = 0.95 
******************
*SRC=MMBR901;MMBR901;BJTs NPN;RF;Ic=30mA
*SYM=RFNBJT
Version 1.1.0a
.SUBCKT MMBR901 100 200 300 
LCL 100 199 2.8E-10 
LBL 200 201 3.2E-10 
LBB 201 299 8.4E-10 
LEL 300 301 3.2E-10 
LEB 301 399 8.4E-10 
CCB 201 199 6E-14 
CCE 199 301 2.4E-13 
CBE 201 301 1.2E-13 
X1 199 299 399 XMBR901 
.ENDS
*INCLUDE MOTRF.LIB
****************
.SUBCKT XMBR901 1 2 3 
CBPAD 1 2 2.4E-13 
CEPAD 1 3 2.4E-13 
Q1 1 2 3 DMBR901 
.ENDS
*****************
.MODEL DMBR901 NPN 
+ IS = 3.698E-16 BF = 100 NF = 1.003 VAF = 46 IKF = 0.7 ISE = 8.812E-15 
+ NE = 1.573 BR = 125.2 NR = 0.9945 VAR = 5 IKR = 1 ISC = 6.423E-15 
+ NC = 1.133 RB = 3 IRB = 8E-05 RBM = 3 RE = 0.4 RC = 32 XTB = 0 
+ EG = 1.11 XTI = 3 CJE = 1.6E-12 VJE = 0.826 MJE = 0.348 CJC = 5.5E-13 
+ VJC = 0.604 MJC = 0.315 XCJC = 0.5 TF = 1.6E-11 XTF = 500 VTF = 1.6 
+ ITF = 0.3 PTF = 85 TR = 1E-09 FC = 0.95 
********************
* Version 1.1.0a
* The Gummel-Poon BJT model does not model the
* distributed resistance and capacitance of the base-
* collector region. Normally this is not a significant
* problem because most low-power RF parts have low
* overall base-region resistance (8-12 ohms). However,
* the MMBR931 device has a much higher overall
* resistance in the base, and so requires an improved
* distribution of base-collector resistance and
* capacitance.
* This improved distribution is accomplished by adding
* a 3-stage ladder of resistors and diodes between the
* external base and collector nodes of the Gummel-Poon
* model (see the XMBR931 sub-circuit). When the
* transitor is in the forward-active mode (B-E
* junction forward biased, B-C junction reverse
* biased), the diodes model the voltage-dependent
* capacitance of the B-C junction.
* If the B-C junction becomes forward-biased by a
* voltage greater than FC * VJC, the diodes are turned
* off, relative to the B-C junction of the BJT. This
* is accomplished by setting the saturation current
* (IS) of the diodes to 1/1000th that of the
* transistor. This model's accuracy when the B-C
* junction is forward-biased into diode turn-off
* region is unknown, and likely not usable.
*************
*SRC=MMBR931;MMBR931;BJTs NPN;RF;1GHz RF Amp Transistor
*SYM=RFNBJT
.SUBCKT MMBR931 100 200 300 
LCL 100 199 2.8E-10 
LBL 200 201 3.2E-10 
LBB 201 299 8.4E-10 
LEL 300 301 3.2E-10 
LEB 301 399 8.4E-10 
CCB 201 199 6E-14 
CCE 199 301 2.4E-13 
CBE 201 301 1.2E-13 
X1 199 299 399 XMBR931
.ENDS
*INCLUDE MOTRF.LIB
************
.SUBCKT XMBR931 1 2 3 
RB1 2 4 6 
RB2 4 5 6 
RB3 5 6 40 
DBC1 2 1 A931BCEX 
DBC2 4 1 A931BCEX
DBC3 5 1 A931BCEX
CBPAD 2 1 1.2E-13 
CEPAD 3 1 1.2E-13 
Q1 1 6 3 DMBR931 
.ENDS
************
.MODEL A931BCEX D 
+ IS = 2.865E-20 TT = 2E-11 CJO = 2.6E-14 VJ = 0.25 M = 0.18 
**********
.MODEL DMBR931 NPN 
+ IS = 2.865E-17 BF = 100.5 NF = 1 VAF = 35 IKF = 0.013 ISE = 1.83E-14 
+ NE = 2.235 BR = 3.934 NR = 0.9992 VAR = 4 IKR = 0.001817 ISC = 3.749E-17 
+ NC = 1.1 RB = 1 IRB = 1.992E-05 RBM = 1 RE = 1.3 RC = 40 XTB = 0 
+ EG = 1.11 XTI = 3 CJE = 1E-13 VJE = 0.7 MJE = 0.27 CJC = 2.6E-14 
+ VJC = 0.25 MJC = 0.18 XCJC = 0.5 TF = 2E-11 XTF = 29 VTF = 1.2 
+ ITF = 0.028 PTF = 60 TR = 1E-09 FC = 0.5 
********************
*SRC=MMBR941M;MMBR941M;BJTs NPN;RF;Ic=50mA
*SYM=RFNBJT
* Version 1.1.0a
.SUBCKT MMBR941M 100 200 300 
LCL 100 199 2.8E-10 
LBL 200 201 3.2E-10 
LBB 201 299 8.4E-10 
LEL 300 301 3.2E-10 
LEB 301 399 8.4E-10 
CCB 201 199 6E-14 
CCE 199 301 2.4E-13 
CBE 201 301 1.2E-13 
X1 199 299 399 XMBR941M
.ENDS
*INCLUDE MOTRF.LIB
**********
.SUBCKT XMBR941M 1 2 3 
CBPAD 1 2 6.5E-14 
CEPAD 1 3 6.5E-14 
Q1 1 2 3 DMBR941M 
.ENDS
************
.MODEL DMBR941M NPN 
+ IS = 8.148E-16 BF = 144 NF = 1.002 VAF = 20 IKF = 0.7 ISE = 1.902E-13 
+ NE = 2.077 BR = 43.92 NR = 1 VAR = 2.5 IKR = 0.00825 ISC = 8.972E-16 
+ NC = 1.381 RB = 9 IRB = 8E-05 RBM = 9 RE = 0.48 RC = 6 XTB = 0 
+ EG = 1.11 XTI = 3 CJE = 8.85E-13 VJE = 0.956 MJE = 0.489 CJC = 3.5E-13 
+ VJC = 0.57 MJC = 0.2418 XCJC = 0.3 TF = 1.2E-11 XTF = 500 VTF = 5 
+ ITF = 1.3 PTF = 70 TR = 1E-09 FC = 0.9 
********************
*SRC=MMBR951M;MMBR951M;BJTs NPN;RF;Ic=100mA
*SYM=RFNBJT
* Version 1.1.0a
.SUBCKT MMBR951M 100 200 300 
LCL 100 199 2.8E-10 
LBL 200 201 3.2E-10 
LBB 201 299 8.4E-10 
LEL 300 301 3.2E-10 
LEB 301 399 8.4E-10 
CCB 201 199 6E-14 
CCE 199 301 2.4E-13 
CBE 201 301 1.2E-13 
X1 199 299 399 XMBR951M
.ENDS
*INCLUDE MOTRF.LIB
***********
.SUBCKT XMBR951M 1 2 3 
CBPAD 2 1 9E-14 
CEPAD 1 3 9E-14 
Q1 1 2 3 DMBR951M 
.ENDS
**************
.MODEL DMBR951M NPN 
+ IS = 8.633E-16 BF = 105 NF = 0.9909 VAF = 26 IKF = 100 ISE = 1E-15 
+ NE = 1.356 BR = 60 NR = 0.9983 VAR = 5 IKR = 0.022 ISC = 1.673E-16 
+ NC = 1.076 RB = 5 IRB = 8E-05 RBM = 5 RE = 0.33 RC = 10 XTB = 0 
+ EG = 1.11 XTI = 3 CJE = 2.9E-12 VJE = 1.061 MJE = 0.5089 CJC = 7.3E-13 
+ VJC = 0.25 MJC = 0.27 XCJC = 0.5 TF = 9E-12 XTF = 500 VTF = 3 
+ ITF = 1.1 PTF = 85 TR = 1E-09 FC = 0.5 
*******************
*SRC=MRF5711M;MRF5711M;BJTs NPN;RF;Ic=80mA
*SYM=RFNBJT
* Version 1.0.0a
.SUBCKT MRF5711M 100 200 300 
LCL1 100 101 1.7E-10 
LCL2 101 102 1.7E-10 
LCL3 102 199 1.7E-10 
LBL1 200 201 1.3E-10 
LBL2 201 202 1.3E-10 
LBL3 202 203 1.3E-10 
LBB 203 299 6E-10 
LEL11 350 351 1.3E-10 
LEL12 351 352 1.3E-10 
LEL13 352 353 1.3E-10 
LEB1 353 399 6E-10 
LEL21 340 341 1.3E-10 
LEL22 341 342 1.3E-10 
LEL23 342 343 1.3E-10 
LEB2 343 399 6E-10 
CBE11 201 351 1E-14 
CBE12 202 352 1E-14 
CBE21 203 343 3E-14 
CCB 203 199 1E-14 
CCE21 101 341 1.2E-13 
CCE22 102 342 1.2E-13 
CCE11 199 353 1.8E-13 
RX1 350 300 0.001 
RX2 340 300 0.001 
X1 199 299 399 XMRF5711M 
.ENDS
*INCLUDE MOTRF.LIB
****************
.SUBCKT XMRF5711M 1 2 3 
CBPAD 2 1 5E-14 
CEPAD 1 3 5E-14 
Q1 1 2 3 DMRF5711M 
.ENDS
***************
.MODEL DMRF5711M NPN 
+ IS = 1.463E-15 BF = 142 NF = 0.9938 VAF = 30 IKF = 0.7 ISE = 8.968E-14 
+ NE = 1.998 BR = 18.91 NR = 0.9936 VAR = 2.5 IKR = 0.08659 ISC = 9.806E-16 
+ NC = 1.1 RB = 2.4 IRB = 0.0001 RBM = 2.5 RE = 0.26 RC = 1 XTB = 0 
+ EG = 1.11 XTI = 3 CJE = 2.9E-12 VJE = 0.96 MJE = 0.447 CJC = 1.8E-12 
+ VJC = 0.665 MJC = 0.409 XCJC = 0.4 TF = 1.35E-11 XTF = 500 VTF = 0.8 
+ ITF = 1.3 PTF = 50 TR = 1E-09 FC = 0.6 
*******************
*SRC=MRF5812M;MRF5812M;BJTs NPN;RF;Ic=200mA
*SYM=RFNBJT
* Version 1.0.0a
.SUBCKT MRF5812M 100 200 300 
LC1 100 10 1.8E-10 
LB1 200 14 1.9E-10 
LE1 300 18 1.33E-10 
CB1 14 18 2.6E-13 
CC1 10 18 2.6E-13 
CC2 9 17 2.6E-13 
CC3 8 16 2.6E-13 
LB4 12 11 1.9E-10 
LBB 11 5 7.5E-10 
LEB 6 15 3.75E-10 
LE4 15 16 1.33E-10 
LC2 10 9 1.8E-10 
LC3 9 8 1.8E-10 
LB2 14 13 1.9E-10 
LB3 13 12 1.9E-10 
CB2 13 17 2.6E-13 
CB3 12 16 2.6E-13 
LE2 18 17 1.33E-10 
LE3 17 16 1.33E-10 
X1 8 5 6 XMRF5812M 
.ENDS
*INCLUDE MOTRF.LIB
**************
.SUBCKT XMRF5812M 1 2 3 
CBPAD 2 1 2.2E-13 
CEPAD 1 3 2.2E-13 
Q1 1 2 3 DMRF5812M 
.ENDS
**************
.MODEL DMRF5812M NPN 
+ IS = 6.363E-15 BF = 131.4 NF = 1.004 VAF = 50 IKF = 6 ISE = 5.709E-14 
+ NE = 1.808 BR = 18 NR = 1 VAR = 3.3 IKR = 5 ISC = 2.98E-15 NC = 1.121 
+ RB = 2.3 IRB = 1E-05 RBM = 2.3 RE = 0.9 RC = 2 XTB = 0 EG = 1.11 
+ XTI = 3 CJE = 8.5E-12 VJE = 0.971 MJE = 0.4941 CJC = 3.7E-12 VJC = 0.7 
+ MJC = 0.5 XCJC = 0.5 TF = 1.7E-11 XTF = 40 VTF = 1 ITF = 2 PTF = 35 
+ TR = 1E-09 FC = 0.95 
******************
*SRC=MRF9011;MRF9011;BJTs NPN;RF;Ic=30mA
*SYM=RFNBJT
* Version 1.0.0a
.SUBCKT MRF9011 100 200 300 
LCL1 100 101 1.8E-10 
LCL2 101 102 1.8E-10 
LCL3 102 199 1.8E-10 
LBL1 200 201 1.3E-10 
LBL2 201 202 1.3E-10 
LBL3 202 203 1.3E-10 
LBB 203 299 6.4E-10 
LEL11 350 351 1.3E-10 
LEL12 351 352 1.3E-10 
LEL13 352 353 1.3E-10 
LEB1 353 399 6.4E-10 
LEL21 340 341 1.3E-10 
LEL22 341 342 1.3E-10 
LEL23 342 343 1.3E-10 
LEB2 343 399 6.4E-10 
CBE11 201 351 1E-14 
CBE12 202 352 1E-14 
CBE21 203 343 3E-14 
CCB 203 199 1E-14 
CCE21 101 341 1.2E-13 
CCE22 102 342 1.2E-13 
CCE11 199 353 1.9E-13 
RX1 350 300 0.001 
RX2 340 300 0.001 
X1 199 299 399 XMRF9011 
.ENDS
*INCLUDE MOTRF.LIB
**************
.SUBCKT XMRF9011 1 2 3 
CBPAD 2 1 8E-14 
CEPAD 1 3 8E-14 
Q1 1 2 3 DMRF9011 
.ENDS
*************
.MODEL DMRF9011 NPN 
+ IS = 2.834E-16 BF = 87 NF = 0.985 VAF = 44 IKF = 10 ISE = 3.645E-14 
+ NE = 1.989 BR = 6 NR = 0.9903 VAR = 7 IKR = 0.018 ISC = 4.705E-16 
+ NC = 1.148 RB = 5 IRB = 8E-05 RBM = 5 RE = 0.65 RC = 12 XTB = 0 
+ EG = 1.11 XTI = 3 CJE = 1.7E-12 VJE = 0.94 MJE = 0.4 CJC = 9.3E-13 
+ VJC = 0.545 MJC = 0.3 XCJC = 0.05 TF = 2.3E-11 XTF = 400 VTF = 0.5 
+ ITF = 0.5 PTF = 40 TR = 1E-09 FC = 0.6 
********************
*SRC=MRF9411M;MRF9411M;BJTs NPN;RF;Ic=50mA
*SYM=RFNBJT
* Version 1.0.0a
.SUBCKT MRF9411M 100 200 300 
LCL1 100 101 1.8E-10 
LCL2 101 102 1.8E-10 
LCL3 102 199 1.8E-10 
LBL1 200 201 1.3E-10 
LBL2 201 202 1.3E-10 
LBL3 202 203 1.3E-10 
LBB 203 299 6.5E-10 
LEL11 350 351 1.3E-10 
LEL12 351 352 1.3E-10 
LEL13 352 353 1.3E-10 
LEB1 353 399 6.5E-10 
LEL21 340 341 1.3E-10 
LEL22 341 342 1.3E-10 
LEL23 342 343 1.3E-10 
LEB2 343 399 6.5E-10 
CBE11 201 351 1E-14 
CBE12 202 352 1E-14 
CBE21 203 343 3E-14 
CCB 203 199 1E-14 
CCE21 101 341 1.2E-13 
CCE22 102 342 1.2E-13 
CCE11 199 353 1.8E-13 
RX1 350 300 0.001 
RX2 340 300 0.001 
X1 199 299 399 XMRF9411M 
.ENDS
*INCLUDE MOTRF.LIB
*********** 
.SUBCKT XMRF9411M 1 2 3 
CBPAD 2 1 4E-14 
CEPAD 1 3 4E-14 
Q1 1 2 3 DMRF9411M 
.ENDS
***********
.MODEL DMRF9411M NPN 
+ IS = 4.558E-16 BF = 136 NF = 0.9979 VAF = 21 IKF = 0.7 ISE = 3.087E-14 
+ NE = 2 BR = 42 NR = 0.993 VAR = 2.9 IKR = 0.016 ISC = 3.411E-17 
+ NC = 1.087 RB = 7 IRB = 8E-05 RBM = 8 RE = 0.45 RC = 8 XTB = 0 
+ EG = 1.11 XTI = 3 CJE = 8.6E-13 VJE = 0.94 MJE = 0.42 CJC = 4.3E-13 
+ VJC = 0.35 MJC = 0.21 XCJC = 0.44 TF = 1.3E-11 XTF = 400 VTF = 6 
+ ITF = 1.5 PTF = 47 TR = 1E-09 FC = 0.98 
********************
*SRC=MRF947;MRF947;BJTs NPN;RF;Ic=50mA
15W 870MegHz
*SYM=RFNBJT
* Version 1.1.1b
.SUBCKT MRF947 100 200 300 
LCL 100 199 3.4E-10 
LBL 200 201 2.9E-10 
LBB 201 299 7.8E-10 
LEL 300 301 2.9E-10 
LEB 301 399 7.8E-10 
CCB 201 199 4E-14 
CCE 199 301 2.2E-13 
CBE 201 301 1.2E-13 
X1 199 299 399 XMRF947 
.ENDS
*INCLUDE MOTRF.LIB
**************
.SUBCKT XMRF947 1 2 3 
CBPAD 2 1 6.5E-14 
CEPAD 1 3 13.0E-14 
Q1 1 2 3 DMRF947 
.ENDS
***************
.MODEL DMRF947 NPN 
+ IS = 4.536E-16 BF = 130 NF = 1.003 VAF = 24 IKF = 0.8 ISE = 7.238E-13 
+ NE = 2.577 BR = 21 NR = 1 VAR = 3.3 IKR = 0.022 ISC = 1.71E-15 
+ NC = 1.202 RB = 8 IRB = 8E-05 RBM = 8 RE = 0.65 RC = 12 XTB = 0 
+ EG = 1.11 XTI = 3 CJE = 9.2E-13 VJE = 0.93 MJE = 0.355 CJC = 4E-13 
+ VJC = 0.357 MJC = 0.237 XCJC = 0.5 TF = 1.2E-11 XTF = 500 VTF = 4 
+ ITF = 1.2 PTF = 60 TR = 1E-09 FC = 0.95 
********************
*SRC=MRF9511m;MRF9511m;BJTs NPN;RF;Ic=100mA
*SYM=RFNBJT
* Version 1.0.0a
.SUBCKT MRF9511m 100 200 300 
LCL1 100 101 1.8E-10 
LCL2 101 102 1.8E-10 
LCL3 102 199 1.8E-10 
LBL1 200 201 1.3E-10 
LBL2 201 202 1.3E-10 
LBL3 202 203 1.3E-10 
LBB 203 299 6.6E-10 
LEL11 350 351 1.3E-10 
LEL12 351 352 1.3E-10 
LEL13 352 353 1.3E-10 
LEB1 353 399 6.6E-10 
LEL21 340 341 1.3E-10 
LEL22 341 342 1.3E-10 
LEL23 342 343 1.3E-10 
LEB2 343 399 6.6E-10 
CBE11 201 351 1E-14 
CBE12 202 352 1E-14 
CBE21 203 343 3E-14 
CCB 203 199 1E-14 
CCE21 101 341 1.2E-13 
CCE22 102 342 1.2E-13 
CCE11 199 353 1.8E-13 
RX1 350 300 0.001 
RX2 340 300 0.001 
X1 199 299 399 XMRF9511 
.ENDS
*INCLUDE MOTRF.LIB
**************
.SUBCKT XMRF9511 1 2 3 
CBPAD 2 1 6E-14 
CEPAD 1 3 6E-14 
Q1 1 2 3 DMRF9511 
.ENDS
**************
.MODEL DMRF9511 NPN 
+ IS = 1.168E-15 BF = 140 NF = 1.001 VAF = 20 IKF = 1 ISE = 2.165E-15 
+ NE = 1.371 BR = 45 NR = 0.9924 VAR = 3.3 IKR = 0.022 ISC = 2.294E-16 
+ NC = 1.133 RB = 3.5 IRB = 8E-05 RBM = 3.5 RE = 0.55 RC = 1.8 XTB = 0 
+ EG = 1.11 XTI = 3 CJE = 1.8E-12 VJE = 1.1 MJE = 0.5576 CJC = 8.5E-13 
+ VJC = 0.41 MJC = 0.3 XCJC = 0.5 TF = 1.3E-11 XTF = 400 VTF = 0.6 
+ ITF = 1.5 PTF = 48 TR = 1E-09 FC = 0.9 
*******************
*SRC=MMBR5031m;MMBR5031m;BJTs NPN;RF;
*SYM=RFNBJT
* Version 1.1.0a
.SUBCKT MMBR5031m 100 200 300 
LCL 100 199 2.8E-10 
LBL 200 201 3.2E-10 
LBB 201 299 8.4E-10 
LEL 300 301 3.2E-10 
LEB 301 399 8.4E-10 
CCB 201 199 6E-14 
CCE 199 301 2.4E-13 
CBE 201 301 1.2E-13 
X1 199 299 399 XMBR5031
.ENDS
*INCLUDE MOTRF.LIB
********************
.SUBCKT XMBR5031 1 2 3 
CBPAD 1 2 6.5E-14 
CEPAD 1 3 6.5E-14 
Q1 1 2 3 DMBR5031 
.ENDS
********************
.MODEL DMBR5031 NPN 
+ IS = 1.047E-16 
+ BF = 64 
+ NF = 0.9751 
+ VAF = 52 
+ IKF = 0.13 
+ ISE = 1.467E-14 
+ NE = 1.929 
+ BR = 4.765 
+ NR = 0.9705 
+ VAR = 8 
+ IKR = 0.005 
+ ISC = 3.754E-16 
+ NC = 1.1 
+ RB = 3.2 
+ IRB = 8E-05 
+ RBM = 3.2 
+ RE = 0.5 
+ RC = 5 
+ XTB = 0 
+ EG = 1.11 
+ XTI = 3 
+ CJE = 1.426E-12 
+ VJE = 0.7247 
+ MJE = 0.276 
+ CJC = 1.024E-12 
+ VJC = 0.8495 
+ MJC = 0.38 
+ XCJC = 0.34 
+ TF = 9.2E-11 
+ XTF = 500 
+ VTF = 0.8 
+ ITF = 1.1 
+ PTF = 18 
+ TR = 1E-09 
+ FC = 0.95 
********************
*SRC=MRF927m;MRF927m;BJTs NPN;RF;
*SYM=RFNBJT
* Version 1.1.0a
.SUBCKT MRF927m 100 200 300 
LCL 100 199 2.5E-10 
LBL 200 201 2.4E-10 
LBB 201 299 6E-10 
LEL 300 301 2.4E-10 
LEB 301 399 6E-10 
CCB 201 199 4E-14 
CCE 199 301 2.8E-13 
CBE 201 301 1.4E-13 
X1 199 299 399 XMRF927
.ENDS
*INCLUDE MOTRF.LIB
********************
.SUBCKT XMRF927 1 2 3 
CBPAD 2 1 2E-14 
CEPAD 1 3 4E-14 
Q1 1 2 3 DMRF927 
.ENDS
********************
.MODEL DMRF927 NPN 
+ IS = 1.871E-16 
+ BF = 133 
+ NF = 0.9958 
+ VAF = 40 
+ IKF = 0.07 
+ ISE = 5.393E-12 
+ NE = 4.933 
+ BR = 17 
+ NR = 0.9929 
+ VAR = 2.6 
+ IKR = 0.018 
+ ISC = 2.892E-17 
+ NC = 1.049 
+ RB = 31 
+ IRB = 8E-05 
+ RBM = 31 
+ RE = 3.3 
+ RC = 6 
+ XTB = 0 
+ EG = 1.11 
+ XTI = 3 
+ CJE = 2.8E-13 
+ VJE = 0.884 
+ MJE = 0.318 
+ CJC = 2.9E-13 
+ VJC = 0.424 
+ MJC = 0.108 
+ XCJC = 0.2 
+ TF = 1.3E-11 
+ XTF = 500 
+ VTF = 1.1 
+ ITF = 0.35 
+ PTF = 50 
+ TR = 2.38E-09 
+ FC = 0.9 
******************
*SRC=MRF949m;MRF949m;BJTs NPN;RF;
*SYM=RFNBJT
* Version 1.1.0a
.SUBCKT MRF949m 100 200 300 
LCL 100 199 4.6E-10 
LBL 200 201 1.7E-10 
LBB 201 299 6.2E-10 
LEL 300 301 1.7E-10 
LEB 301 399 6.2E-10 
CCB 201 199 1.6E-13 
CCE 199 301 2E-13 
CBE 201 301 1.2E-13 
X1 199 299 399 XMRF949 
.ENDS
*INCLUDE MOTRF.LIB
********************
.SUBCKT XMRF949 1 2 3 
CBPAD 1 3 8E-14 
CEPAD 2 3 1.6E-13 
Q1 1 2 3 DMRF949 
.ENDS
*******************
.MODEL DMRF949 NPN 
+ IS = 4.598E-16 
+ BF = 175 
+ NF = 0.9904 
+ VAF = 22 
+ IKF = 0.8 
+ ISE = 1.548E-14 
+ NE = 1.703 
+ BR = 76.1 
+ NR = 0.9952 
+ VAR = 2.1 
+ IKR = 0.02059 
+ ISC = 3.395E-16 
+ NC = 1.13 
+ RB = 8 
+ IRB = 8E-05 
+ RBM = 3 
+ RE = 0.45 
+ RC = 6 
+ XTB = 0 
+ EG = 1.11 
+ XTI = 3 
+ CJE = 8.7E-13 
+ VJE = 0.905 
+ MJE = 0.389 
+ CJC = 3.6E-13 
+ VJC = 0.4907 
+ MJC = 0.2198 
+ XCJC = 0.43 
+ TF = 1E-11 
+ XTF = 50 
+ VTF = 1.2 
+ ITF = 0.32 
+ PTF = 32 
+ TR = 1E-09 
+ FC = 0.9 
******************
*SRC=MRF8372m;MRF8372m;BJTs NPN;RF;
*SYM=RFNBJT
* Version 1.0.0a
.SUBCKT MRF8372m 100 200 300 
LC1 100 10 1.8E-10 
LB1 200 14 1.3E-10 
LE1 300 18 9.1E-11 
CB1 14 18 2.4E-13 
CC1 10 18 2.4E-13 
CC2 9 17 2.4E-13 
CC3 8 16 2.4E-13 
LB4 12 11 1.3E-10 
LBB 11 5 7.5E-10 
LEB 6 15 3.75E-10 
LE4 15 16 9.1E-11 
LC2 10 9 1.8E-10 
LC3 9 8 1.8E-10 
LB2 14 13 1.3E-10 
LB3 13 12 1.3E-10 
CB2 13 17 2.4E-13 
CB3 12 16 2.4E-13 
LE2 18 17 9.1E-11 
LE3 17 16 9.1E-11 
X1 8 5 6 XRF8372
.ENDS
*INCLUDE MOTRF.LIB
********************
.SUBCKT XRF8372 1 2 3 
CBPAD 1 3 2.2E-13 
CEPAD 2 3 2.2E-13 
Q1 1 2 3 DRF8372 
.ENDS
********************
.MODEL DRF8372 NPN 
+ IS = 2.348E-15 
+ BF = 106 
+ NF = 0.9891 
+ VAF = 37 
+ IKF = 30 
+ ISE = 1.701E-14 
+ NE = 1.585 
+ BR = 56 
+ NR = 0.9928 
+ VAR = 3.8 
+ IKR = 0.2 
+ ISC = 3.678E-15 
+ NC = 1.096 
+ RB = 2 
+ IRB = 8E-05 
+ RBM = 1 
+ RE = 0.85 
+ RC = 1.2 
+ XTB = 0 
+ EG = 1.11 
+ XTI = 3 
+ CJE = 8.254E-12 
+ VJE = 0.8789 
+ MJE = 0.6388 
+ CJC = 4.08E-12 
+ VJC = 0.608 
+ MJC = 0.3829 
+ XCJC = 0.33 
+ TF = 1.9E-11 
+ XTF = 500 
+ VTF = 5.207 
+ ITF = 4.868 
+ PTF = 48 
+ TR = 1E-09 
+ FC = 0.9058
********************
*SRC=MRF917m;MRF917m;BJTs NPN;RF;
*SYM=RFNBJT
* Version 1.1.0a
.SUBCKT MRF917m 100 200 300 
LCL 100 199 4.4E-10 
LBL 200 201 2.6E-10 
LBB 201 299 7.5E-10 
LEL 300 301 2.6E-10 
LEB 301 399 7.5E-10 
CCB 201 199 8E-14 
CCE 199 301 2.2E-13 
CBE 201 301 1.2E-13 
X1 199 299 399 XMRF917
.ENDS
*INCLUDE MOTRF.LIB
********************
.SUBCKT XMRF917 1 2 3 
CBPAD 1 3 8E-14 
CEPAD 2 3 8E-14 
Q1 1 2 3 DMRF917
.ENDS
*******************
.MODEL DMRF917 NPN 
+ IS = 9.555E-16 
+ BF = 92 
+ NF = 0.9989 
+ VAF = 30 
+ IKF = 0.7 
+ ISE = 8.145E-14 
+ NE = 1.916 
+ BR = 15.5 
+ NR = 0.9911 
+ VAR = 3.3 
+ IKR = 0.021 
+ ISC = 7.388E-16 
+ NC = 1.103 
+ RB = 12 
+ IRB = 0.001 
+ RBM = 12 
+ RE = 2.2 
+ RC = 4 
+ XTB = 0 
+ EG = 1.11 
+ XTI = 3 
+ CJE = 2.5E-12 
+ VJE = 0.9402 
+ MJE = 0.4392 
+ CJC = 1.1E-12 
+ VJC = 0.5411 
+ MJC = 0.2986 
+ XCJC = 0.27 
+ TF = 1.5E-11 
+ XTF = 500 
+ VTF = 1.1 
+ ITF = 1 
+ PTF = 60 
+ TR = 1E-09 
+ FC = 0.85 
********************
*SRC=MMBR920m;MMBR920m;BJTs NPN;RF;
*SYM=RFNBJT
* Version 1.1.0a
.SUBCKT MMBR920m 100 200 300 
LCL 100 199 2.8E-10 
LBL 200 201 3.2E-10 
LBB 201 299 8.4E-10 
LEL 300 301 3.2E-10 
LEB 301 399 8.4E-10 
CCB 201 199 6E-14 
CCE 199 301 2.4E-13 
CBE 201 301 1.2E-13 
X1 199 299 399 XMBR920 
.ENDS
*INCLUDE MOTRF.LIB
********************
.SUBCKT XMBR920 1 2 3 
CBPAD 1 2 6.5E-14 
CEPAD 1 3 6.5E-14 
Q1 1 2 3 DMBR920 
.ENDS
********************
.MODEL DMBR920 NPN 
+ IS = 6.04E-16 
+ BF = 84 
+ NF = 0.9956 
+ VAF = 26 
+ IKF = 0.29 
+ ISE = 1.41E-14 
+ NE = 1.662 
+ BR = 32 
+ NR = 0.995 
+ VAR = 3.8 
+ IKR = 0.013 
+ ISC = 1.713E-16 
+ NC = 1.053 
+ RB = 21 
+ IRB = 8E-05 
+ RBM = 21 
+ RE = 0.35 
+ RC = 5 
+ XTB = 0 
+ EG = 1.11 
+ XTI = 3 
+ CJE = 1.28E-12 
+ VJE = 0.987 
+ MJE = 0.47 
+ CJC = 6.624E-13 
+ VJC = 0.2 
+ MJC = 0.2525 
+ XCJC = 0.35 
+ TF = 2.1E-11 
+ XTF = 500 
+ VTF = 1.2 
+ ITF = 1 
+ PTF = 47 
+ TR = 1E-09 
+ FC = 0.95 
***************

